US06825188B2
f) Methyl (S)-8-hydroxy-3-oxo-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
To a solution of methyl (S)-8-methoxy-3-oxo-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (2.61 g, 7.1 mmole) in CH2Cl2 (40 mL) was added BBr3 (21.3 mL, 1M in CH2Cl2, 21.3 mmole) at −20° C. After 45 minutes the mixture was quenched with MeOH (200 mL) and concentrated. The residue was filtered through a silica gel plug using 50% EtOAc/hexanes as eluent. The resulting orange solid was recrystallized from MeOH/H2O to give the title compound as an off-white solid (2.16 g, 81%): MS (ES) m/e 376 (M+Na)+.

reactant | methyl (S)-8-methoxy-3-oxo-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 7.1 mmole, 2.61 g | COC1=CC2=C(C[C@H](C(N(C2)CCC2=CC=CC=C2)=O)CC(=O)OC)C=C1 | C22H25NO4
reactant | BBr3 | 21.3 mmole, 1M, 21.3 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Methyl (S)-8-hydroxy-3-oxo-2-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 2.16 g, 81% | OC1=CC2=C(C[C@H](C(N(C2)CCC2=CC=CC=C2)=O)CC(=O)OC)C=C1 | C21H23NO4
